US07405299B2
Preparation of 4-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-[1,8]naphthyridine
Add THF (1 mL) to 4-bromo-[1,8]naphthyridine (Barlin, G. B. and Tan, W-L. Australian J. Chem. 1984, 37, 1065-1073; 66 mg, 0.31 mmol) and purge the solution with nitrogen for 10 min. Add tris(dibenzylideneacetone)dipalladium(0) (24 mg, 0.026 mmol) and bis(1,2-bis(diphenylphosphino)ethane) palladium(0) (24 mg, 0.026 mmol), purge the reaction mixture with nitrogen for 2 min, and stir the reaction at room temperature for 20 min. Add 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid (Preparation 5, 60 mg, 0.26 mmol) in 1:1 DMF/THF (1 mL) and stir for 10 min. Add 2.0 M aqueous potassium carbonate (0.32 mL, 0.63 mmol) and heat the reaction to 40° C. Add additional tris(dibenzylideneacetone)dipalladium(0) (24 mg, 0.026 mmol) after 1 h and 3.5 h. Stir the reaction at 40 DC for 24 h and concentrate in vacuo. Load the crude reaction mixture onto SCX resin with methanol, wash the resin with methanol (100 mL), and elute with methanolic ammonia solution (2M, 100 mL). Concentrate the ammonia fraction in vacuo, purify by flash column chromatography and triturate with hexanes to provide the title compound (28.7 mg, 35%) as a tan solid. MS ESI+ m/e 314 (M+1). 1H NMR (CDCl3) δ 9.11 (m, 1H), 9.07 (m, 1H), 8.25 (m, 1H), 8.10 (m, 1H), 7.35-7.50 (m, 3H), 7.04 (m, 2H), 4.38 (m, 2H), 2.88 (m, 2H), 2.70 (m, 2H). HPLC: 94.8%, Rt=6.75 min. TLC (SiO2): Rf0.3 (1:1 [80:18:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]/dichloromethane).

reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | 4-bromo-[1,8]naphthyridine | 0.31 mmol, 66 mg | BrC1=CC=NC2=NC=CC=C12 | C8H5BrN2
reactant | 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid | 0.26 mmol, 60 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)B(O)O | C11H12BN3O2
reactant | potassium carbonate | 0.63 mmol, 2.0 M, 0.32 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.026 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | bis(1,2-bis(diphenylphosphino)ethane) palladium(0) | 0.026 mmol, 24 mg | [Pd].C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.026 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF THF | 1 mL | CN(C)C=O.C1CCOC1
product | 4-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-[1,8]naphthyridine | 28.7 mg, 35% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=NC=CC=C21 | C19H15N5
